US04411900
A mixture of 4-chloromethyl-2-methylaminothiazole monohydrochloride (2.2 g), 1-benzhydrylpiperazine (2.5 g) and potassium carbonate (2.7 g) in N,N-dimethylformamide (15 ml) was stirred at 70° C. for an hour. After the reaction mixture was poured into ice-water, it was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and then evaporated to dryness to give an oil, which was transformed into its hydrochloride in a conventional manner, followed by recrystallization from a mixture of methanol and diethyl ether to obtain white crystals (1.2 g) of 4-(4-benzhydrylpiperazin-1-ylmethyl)-2-methylaminothiazole trihydrochloride, mp 225°-228° C. (dec.).

reactant | 4-chloromethyl-2-methylaminothiazole monohydrochloride | 2.2 g | Cl.ClCC=1N=C(SC1)NC
reactant | 1-benzhydrylpiperazine | 2.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | potassium carbonate | 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloride | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4-benzhydrylpiperazin-1-ylmethyl)-2-methylaminothiazole trihydrochloride | 1.2 g | Cl.Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC=1N=C(SC1)NC | InChI=1S/C22H26N4S.3ClH/c1-23-22-24-20(17-27-22)16-25-12-14-26(15-13-25)21(18-8-4-2-5-9-18)19-10-6-3-7-11-19;;;/h2-11,17,21H,12-16H2,1H3,(H,23,24);3*1H
